US06956052B2
2-[(6-carboxy-5-chloropyridin-2-yl)thio]-N,N-dimethylethanaminium chloride
3,6-Dichloropyridine-2-carboxylic acid (1.0 g, 5.23 mmol.), sodium hydroxide (1.64 g, 15.7 mmol.), and anhydrous THF (10 mL) were combined before slowly adding the N,N-dimethylaminoethanethiol (1.9 g, 18.3 mmol). After stirring for several hours under nitrogen, two aliquots of DMF (10 mL each) were added. Several hours later, additional DMF (10 mL) and dimethylaminoethanethiol (1.9 g, 18.3 mmol) were added. The reaction was stirred overnight at room temperature. The solution was diluted with water and extracted three times with methylene chloride. The aqueous was acidified to pH 5 and extracted four times with methylene chloride. The aqueous was acidified to pH 1, the solvent was removed, and the residue was recrystallized from hot water. Yellow solid, 0.786 g (51% yield). 1H NMR (300 MHz, CD3OD): δ 2.98 (s, 6H), 3.53 (m, 4H), 7.50 (d, 1H), 7.85 (d, 1H). 13C NMR (75 MHz, CD3OD): δ 24.4, 42.8, 58.2, 125.7, 128.1, 140.0, 147.3, 158.2, 166.0.

reactant | 3,6-Dichloropyridine-2-carboxylic acid | 5.23 mmol, 1.0 g | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | sodium hydroxide | 15.7 mmol, 1.64 g | [OH-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | N,N-dimethylaminoethanethiol | 18.3 mmol, 1.9 g | CN(C)C(C)S | C4H11NS
reactant | dimethylaminoethanethiol | 18.3 mmol, 1.9 g | CN(C)C(C)S | C4H11NS
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[(6-carboxy-5-chloropyridin-2-yl)thio]-N,N-dimethylethanaminium chloride | 51% yield | [Cl-].C(=O)(O)C1=C(C=CC(=N1)SCC[NH+](C)C)Cl | InChI=1S/C10H13ClN2O2S.ClH/c1-13(2)5-6-16-8-4-3-7(11)9(12-8)10(14)15;/h3-4H,5-6H2,1-2H3,(H,14,15);1H
